US06660744B1
2 mL of an 6 N aqueous solution of hydrochloride were added to the mixture of tert-butyl 2-{4-[4-amino-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]piperidino}acetate (0.10 g, 0.0002 mol) in acetone (5 mL). The mixture was stirred at 45° C. for 2 hours. The solvent was removed under reduced pressure. Water (10 mL) was added into the residue, and the mixture was lyophilized to yield 2-{4-[4-amino-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]piperidino}acetic acid (0.010 g, 0.0002 mol).

reactant | hydrochloride | Cl | ClH
reactant | tert-butyl 2-{4-[4-amino-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]piperidino}acetate | 0.0002 mol, 0.10 g | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)OC2=CC=CC=C2)C2CCN(CC2)CC(=O)OC(C)(C)C | C28H32N6O3
solvent | acetone | 5 mL | CC(=O)C | C3H6O
product | 2-{4-[4-amino-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]piperidino}acetic acid | 0.0002 mol, 0.010 g | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)OC2=CC=CC=C2)C2CCN(CC2)CC(=O)O | C24H24N6O3
